US07456176B2
Synthesis of 4-(4-bromo-benzenesulfonyl)-piperidine-1-carboxylic acid benzyl ester
4-(4-bromo-phenylsulfanyl)-piperidine-1-carboxylic acid benzyl ester (1.2 g, 2.96 mmol, 1 equiv) and sodium perborate tetrahydrate (NaBO3.4H2O) (1.36 g, 8.87 mmol, 3 equiv) were heated to 55° C. in HOAc and stirred for 18 h. The reaction was cooled to room temperature and poured onto water. The aqueous phase was extracted with EtOAc (3×100 mL). The organic phases were combined and washed carefully with saturated sodium bicarbonate solution (CAUTION: copious gas evolution), dried over sodium sulfate, filtered and evaporated to yield a white solid (1.2 g, 93% yield). Rf=0.16 (20% EtOAc/hexanes).

reactant | 4-(4-bromo-phenylsulfanyl)-piperidine-1-carboxylic acid benzyl ester | 2.96 mmol, 1.2 g, 1 equiv | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)SC1=CC=C(C=C1)Br | C19H20BrNO2S
reactant | sodium perborate tetrahydrate | 8.87 mmol, 1.36 g, 3 equiv | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | HOAc | CC(=O)O | C2H4O2
product | 4-(4-bromo-benzenesulfonyl)-piperidine-1-carboxylic acid benzyl ester | 1.2 g, 93% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)Br | C19H20BrNO4S
